US05714488
To a solution in dioxane/EtOH/H2O (3:2:1, 70 mL) of 4,4'-dihydroxy-benzophenone (3.21 g, 15 mmol) was added aminooxyacetic acid hydrochloride (3.25 g, 15 mmol) and acetic acid (0.5 mL). The mixture was refluxed for 18 hours, cooled to room temperature, and concentrated in vacuo. The residue was diluted with CH2Cl2 (100 mL), washed with saturated aqueous of NaHCO3 and brine, dried over MgSO4, filtered, and concentrated in vacuo. Chromatography on silica gel (hexanes/EtOAC 1: 1 ) provided bis(4-hydroxyphenyl)methyloximinoacetic acid ethyl ester (2.4 g).

reactant | 4,4'-dihydroxy-benzophenone | 15 mmol, 3.21 g | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
reactant | aminooxyacetic acid hydrochloride | 15 mmol, 3.25 g | Cl.NOCC(=O)O
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | dioxane EtOH H2O | 70 mL | O1CCOCC1.CCO.O
product | bis(4-hydroxyphenyl)methyloximinoacetic acid ethyl ester | 2.4 g | C(C)OC(C(=NO)C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)=O | C17H17NO5
